US05780472
1-{[3-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)propyl]aminocarbonyl}-4-(2-methoxyphenyl)piperazine
Phenyl-N-[3-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)propyl]carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-[3-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)propyl]carbamate | C1(=CC=CC=C1)OC(NCCCC=1C(=NC(=C(C1)CC)C)OC)=O | C19H24N2O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-{[3-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)propyl]aminocarbonyl}-4-(2-methoxyphenyl)piperazine | yield: 67% | C(C)C=1C=C(C(=NC1C)OC)CCCNC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C24H34N4O3
